US06284764B1
2-Hydroxymethyl-tetrahydro-pyranol:
To a cooled (0° C.), stirred suspension of LiAlH4 (3.42 g, 90.0 mmol) in anhydrous THF (50 mL) was added dropwise a solution of 4-oxo-tetrahydro-pyran-2-carboxylic acid ethyl ester (5.17 g, 30.0 mmol). After stirring for 1 hour, the reaction was quenched by the slow, sequential addition of water (3.4 mL), 15% NaOH (3.4 mL), and water (10.0 mL). The inorganic salt was filtered off and extracted with EtOAc repeatedly since the product was absorbed on the solid. Solvent removal afforded 2.42 g (61%) of yellow oil. The crude mixture was carried to the next step without purification.

reactant | LiAlH4 | 90.0 mmol, 3.42 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 4-oxo-tetrahydro-pyran-2-carboxylic acid ethyl ester | 30.0 mmol, 5.17 g | C(C)OC(=O)C1OCCC(C1)=O | C8H12O4
reactant | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-Hydroxymethyl-tetrahydro-pyranol | 2.42 g, 61% | OCC1(OCCCC1)O | C6H12O3
